data/oMe_Silver.jsonl
{"reaction_id": "NR-003_1-C1CCCCC1_2-C(C)C","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(C1CCCCC1)(OC(C)C)"],"products_smiles": ["O=C(C1CCCCC1)C(O)C1CCCCC1"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(C1CCCCC1)(OC(C)C)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(C1CCCCC1)(OC(C)C)C([O-])(C1CCCCC1)(OC(C)C)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C1CCCCC1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(C1CCCCC1)=C([O])C1CCCCC1","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(C1CCCCC1)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C1CCCCC1)C([O-])C1CCCCC1","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C1CCCCC1)C(O)C1CCCCC1","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
{"reaction_id": "NR-220_1-c2ccsc2","level": "hard","name": "Piancatelli Rearrangement","reactants_smiles": ["C(O)(c1occc1)(c2ccsc2)"],"products_smiles": ["C1C(O)C(c2ccsc2)C(=O)C=1"],"conditions": "H+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(c1occc1)(c2ccsc2)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting it into water, facilitated by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[CH+](c1occc1)c2ccsc2","step_weight": 0,"rationale": "Heterolytic cleavage releases neutral water, generating a resonance-stabilized carbocation adjacent to the electron-rich furan ring."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC([OH2+])OC1=Cc2ccsc2","step_weight": 0,"rationale": "The furan π-system attacks the carbocation, forming a new C–C bond; aromaticity loss is offset by carbocation stabilization."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=CC([OH])[OH+]C1=Cc2ccsc2","step_weight": 0,"rationale": "Proton transfer adjusts the charge distribution, preparing the intermediate for elimination by generating a better leaving group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[OH+])C=CC([OH])=Cc2ccsc2","step_weight": 0,"rationale": "Elimination of a protonated hydroxyl group forms a conjugated enone system, driven by the stability of the α,β-unsaturated carbonyl."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1C(O)C(c2ccsc2)C(=O)C=1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack by the hydroxyl group closes the cyclopentane ring, favored by proximity and relief of carbocation instability."}],"description": "Under acidic conditions, the Piancatelli rearrangement proceeds via protonation-induced ring opening of the furan, generating a stabilized carbocation. Subsequent nucleophilic additions and proton transfers reorganize the skeleton, leading to cyclopentenone formation with hydroxyl substitution adjacent to the carbonyl."}
